US08106043B2
N-(4-(2-(Methylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide dihydrochloride:
To a solution of N-(4-(2-(methylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide (158 mg, 0.475 mmol) in methanol (3 mL) was added hydrogen chloride (1M in diethyl ether; 1.426 mL, 1.426 mmol). The resulting mixture was concentrated in vacuo, giving a yellow solid (192 mg, 100%). 1H NMR (DMSO-d6) δ 11.47 (s, 1H), 9.76 (s, 1H), 9.31-9.19 (m, 2H), 8.74 (s, 1H), 8.20-8.11 (m, 2H), 7.39-7.33 (m, 1H), 7.11 (d, J=8.1 Hz, 1H), 7.04 (s, 1H), 6.62 (d, J=7.8 Hz, 1H), 3.71-3.61 (m, 4H), 3.18-3.04 (m, 4H), 2.58-2.52 (m, 3H); HRMS (C16H21N4S2, MH+, free base): calculated: 333.1202, observed: 333.1207. HPLC purity: 97% by area.

reactant | N-(4-(2-(methylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide | 0.475 mmol, 158 mg | CNCCN1C2=C(SCC1)C=CC(=C2)NC(=N)C=2SC=CC2 | C16H20N4S2
reactant | hydrogen chloride | 1.426 mmol, 1M, 1.426 mL | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
product | N-(4-(2-(Methylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-6-yl)thiophene-2-carboximidamide dihydrochloride | 192 mg, 100% | Cl.Cl.CNCCN1C2=C(SCC1)C=CC(=C2)NC(=N)C=2SC=CC2 | InChI=1S/C16H20N4S2.2ClH/c1-18-6-7-20-8-10-22-14-5-4-12(11-13(14)20)19-16(17)15-3-2-9-21-15;;/h2-5,9,11,18H,6-8,10H2,1H3,(H2,17,19);2*1H
